US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.445 mmol) in THF (5 mL) was added ethyl amine as a 2M solution in THF (1.11 mL, 2.22 mmol). The resulting mixture was let stir at rt for 3 h at which time it was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid, containing 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-ethyl-4,6-difluorobenzamide. This material was dissolved in 1,4-dioxane (5 mL) and transferred to a 20 ml microwave vessel. A solution of 2M NaOH (5 ml) was added and reaction heated in microwave at 120° C. for 8 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid which was purified via chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-ethyl-4,6-difluorobenzamide (60 mg, 0.101 mmol) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14 (t, J=7.14 Hz, 3 H) 2.18-2.31 (m, 6 H) 3.06-3.19 (m, 4H) 3.34 (dq, J=6.87, 6.65 Hz, 2 H) 3.78 (s, 3 H) 4.09-4.24 (m, 2 H) 6.25 (br. s., 1 H) 6.75-6.89 (m, 1 H) 6.93-7.03 (m, 2 H) 7.62-7.75 (m, 1 H) 8.39-8.49 (m, 1 H) 8.55 (br. s., 2 H) 10.55 (s, 1H) 11.26 (dd, J=2.56, 1.10 Hz, 1 H) (ESIMS (M+H)+=565)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.445 mmol, 300 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC(=CC(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
reactant | ethyl amine | C(C)N | C2H7N
reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-ethyl-4,6-difluorobenzamide | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NCC)C(=CC(=C2)F)F)OC)C | C35H36F2N8O5S
reactant | NaOH | 2M, 5 ml | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | THF | 2.22 mmol, 1.11 mL | C1CCOC1 | C4H8O
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-ethyl-4,6-difluorobenzamide | 0.101 mmol, 60 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NCC)C(=CC(=C2)F)F)OC)C | C28H30F2N8O3
